US07371732B2
1-(6-O-Methoxycarbonyl-β-D-glucopyranosyloxy)-2-(4-ethynylbenzyl)-benzene
100 mg of 1-(β-D-glucopyranosyloxy)-2-(4-ethynylbenzyl)-benzene in 0.5 ml of 2,4,6-collidine are combined with 0.026 ml of methyl chloroformate in the ice bath and then stirred for 16 hours at ambient temperature. 5 ml of 0.1 N hydrochloric acid are added to the reaction mixture which is then extracted with 10 ml of ethyl acetate. The organic phase is separated off, washed with saturated saline solution and evaporated down. The residue is stirred with 8 ml of diethyl ether/petroleum ether (1:1), the solid is suction filtered and dried at 40° C.

reactant | 1-(β-D-glucopyranosyloxy)-2-(4-ethynylbenzyl)-benzene | 100 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=C(C=CC=C1)CC1=CC=C(C=C1)C#C | C21H22O6
reactant | methyl chloroformate | 0.026 ml | ClC(=O)OC | C2H3ClO2
reactant | hydrochloric acid | 0.1 N, 5 ml | Cl | ClH
solvent | 2,4,6-collidine | 0.5 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | 1-(6-O-Methoxycarbonyl-β-D-glucopyranosyloxy)-2-(4-ethynylbenzyl)-benzene | COC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)OC1=C(C=CC=C1)CC1=CC=C(C=C1)C#C)O)O)O | C23H24O8
